US05238837
ln 90 ml of methylene chloride was dissolved methyl 20-hydroxyeicosanoate (8.0 g, 23.4 mmoles). To the obtained solution were added pyridine (7.93 g, 93.4 mmoles) and then, under ice-cooling, p-toluenesulfonyl chloride (8.90 g, 46.7 mmoles) gradually over a period of 1 hour. The mixture was stirred for 14 hours in a refrigerator. After the completion of the reaction, the reaction mixture was subjected to the same after-treatment steps as in Reference Example 1, to give methyl 20-tosyleicosanoate (10.57 g, 91%) having the following properties.

reactant | methyl 20-hydroxyeicosanoate | 23.4 mmoles, 8.0 g | OCCCCCCCCCCCCCCCCCCCC(=O)OC | C21H42O3
reactant | pyridine | 93.4 mmoles, 7.93 g | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 46.7 mmoles, 8.90 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
product | methyl 20-tosyleicosanoate | 10.57 g, 91% | S(=O)(=O)(C1=CC=C(C)C=C1)CCCCCCCCCCCCCCCCCCCC(=O)OC | C28H48O4S
